US06248765B1
Cyclohexylmethyl (1H-imidazol-4-yl)methyl ether
5 mmol of sodium (1-triphenylmethyl-1H-imidazol-4-yl)-methanolate and 5 mmol of cyclohexylmethane chloride are treated as described in Example 5.

reactant | sodium (1-triphenylmethyl-1H-imidazol-4-yl)-methanolate | 5 mmol | C1(=CC=CC=C1)C(N1C=NC(=C1)C[O-])(C1=CC=CC=C1)C1=CC=CC=C1.[Na+]
reactant | cyclohexylmethane chloride | 5 mmol | [Cl-].C1(CCCCC1)C
product | Cyclohexylmethyl (1H-imidazol-4-yl)methyl ether | N1C=NC(=C1)COCC1CCCCC1 | C11H18N2O
